US07834035B2
1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid ethyl ester (1.15 g, 4.42 mmol) was added in a mixture of EtOH/NaOH 3N:1/1 (8 ml) and the resulting heterogeneous solution was stirred at R.T for 1 h. Fuming HCl was added to the mixture until pH=1. The solution was poured with DCM. The organic layer was separated and the aqueous phase was extracted twice with DCM. The combined organic phase was washed twice with water. The solution was dried over Na2SO4, filtered and concentrated to afford 1.13 g (100%) of 1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid as an orange oil which can be used without further purification.

reactant | 1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid ethyl ester | 4.42 mmol, 1.15 g | C(C)OC(=O)C1CN(CCC1)C(C1=CC=C(C=C1)F)=O | C15H18FNO3
reactant | HCl | Cl | ClH
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOH NaOH | 3N | CCO.[OH-].[Na+]
product | 1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid | 1.13 g, 100% | FC1=CC=C(C(=O)N2CC(CCC2)C(=O)O)C=C1 | C13H14FNO3
